;Spice netlist for an inverter and a capacitor
simulator lang=spectre

include "~/lchenjie/cadence/lab3/model18.spi"
include "~/lchenjie/cadence/lab3/cell18.spi"

vgnd (gnd 0) vsource dc=0
vvdd (vdd 0) vsource dc=1.8

acinput (IV_in 0) vsource dc=0 mag=1

R1 (XR_in XR_in1) resistor r=0

X1 (XR_in1 vdd XR_out vdd gnd) XR wp=0.9u lp=0.2u wn=0.4u ln=0.2u wp1=0.9u lp1=0.2u wn1=0.15u ln1=0.2u

Freq ac start=1e+1 stop=1e+9
save R1:currents

